US08022062B2
Cyclohexanecarboximidic acid ethyl ester, hydrochloride:
Combine cyclohexanecarbonitrile (1.0 g, 9.20 mmol), ethanol (0.4 g, 9.20 mmol) and 4N hydrogen chloride in dioxane (8 mL) and stir the reaction mixture for 17 h at ambient temperature. Evaporate the solvent and triturate the residue with diethyl ether to obtain the desired intermediate as a white solid (1.4 g, 80%).

reactant | cyclohexanecarbonitrile | 9.20 mmol, 1.0 g | C1(CCCCC1)C#N | C7H11N
reactant | ethanol | 9.20 mmol, 0.4 g | C(C)O | C2H6O
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | Cyclohexanecarboximidic acid ethyl ester, hydrochloride | 1.4 g, 80% | Cl.C(C)OC(=N)C1CCCCC1 | InChI=1S/C9H17NO.ClH/c1-2-11-9(10)8-6-4-3-5-7-8;/h8,10H,2-7H2,1H3;1H
